US05665746
A solution of 20 mg of (4R,9R)-16-(tert-butyl-dimethylsilanyloxy)-9-ethoxycarbonyloxy-14-methoxy-13-methyl-6,12-dioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecine-4-carboxylic acid methyl ester was subjected in an analogous manner to the procedure described in Example 1. The crude product was dissolved in 0.5 ml of a 0.6M solution of sodium methoxide in methanol. The solution was stirred at 0° C. for 7 min whereupon 2 ml of IN hydrochloric acid were added. The mixture was extracted with ethyl acetate and the organic layer was washed with water, dried over sodium sulfate and evaporated in vacuo. The residue was crystallized from ethyl acetate/hexane to afford 5 mg of (4R,9R)-9,16-dihydroxy-14-methoxy-13-methyl-6,12-dioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecine-4-carboxylic acid methyl ester as a white solid.

reactant | (4R,9R)-16-(tert-butyl-dimethylsilanyloxy)-9-ethoxycarbonyloxy-14-methoxy-13-methyl-6,12-dioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecine-4-carboxylic acid methyl ester | 20 mg | COC(=O)[C@@H]1CSCC2=C(C(OC[C@@H](CCC(N1)=O)OC(=O)OCC)=O)C(=C(C=C2O[Si](C)(C)C(C)(C)C)OC)C | C28H43NO10SSi
solvent | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | (4R,9R)-9,16-dihydroxy-14-methoxy-13-methyl-6,12-dioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecine-4-carboxylic acid methyl ester | 5 mg | COC(=O)[C@@H]1CSCC2=C(C(OC[C@@H](CCC(N1)=O)O)=O)C(=C(C=C2O)OC)C | C19H25NO8S
